US04965367
1,1-Diacetoxy-3-methylsilacyclobutane
In accordance with the general procedure of Example 1, when 1,1-dichloro-3methylsilacyclobutane and trimethylsilylacetate are reacted it is predicted that the title compound is obtained.

reactant | 1,1-dichloro-3methylsilacyclobutane | Cl[Si]1(CC(C1)C)Cl | C4H8Cl2Si
reactant | trimethylsilylacetate | C[Si](C)(C)CC(=O)[O-]
product | 1,1-Diacetoxy-3-methylsilacyclobutane | C(C)(=O)O[Si]1(CC(C1)C)OC(C)=O | C8H14O4Si
